### PR TITLE
Add Erdős problem 711

### LINKED ISSUE #911: Erdős Problem 711
### What is the conjecture

https://www.erdosproblems.com/711

  Let $f(n,m)$ be minimal such that in $(m,m+f(n,m))$ there exist distinct integers $a_1,\ldots,a_n$ such that $k\mid a_k$ for all $1\leq k\leq n$. Prove that
$$\max_m f(n,m) \leq n^{1+o(1)}$$
and that
$$\max_m (f(n,m)-f(n,n))\to \infty.$$

Status:  open

### PR DESCRIPTION
**Pull request by putonthetableacat55**
Formalize both parts of Erdős problem 711 with correct source references and statuses; the second part is now recorded as solved by van Doorn.

Fixes #911.

### CODE REVIEW

**Comment by Smetalo** [comment]
Does this resolve #911?

File: FormalConjectures/ErdosProblems/711.lean [hunk 1]
```diff
@@ -0,0 +1,83 @@
...
+            B ≤ Lm - Ln
+
+/-- Prove `max_m f(n,m) ≤ n^{1+o(1)}`. -/
+@[category research open, AMS 11]
+theorem erdos_711.parts.i : answer(sorry) ↔ Erdos711UpperBoundConjecture := by
+  sorry
+
+/-- Prove `max_m (f(n,m) - f(n,n)) → ∞`. -/
+@[category research open, AMS 11]
+theorem erdos_711.parts.ii :
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/711.lean:76]: doesn't the extra material mention that this is solved?

File: FormalConjectures/ErdosProblems/711.lean [hunk 2]
```diff
@@ -0,0 +1,83 @@
...
+
+/-!
+# Erdős Problem 711
+
+*Reference:* [erdosproblems.com/711](https://www.erdosproblems.com/711)
+
+Let `f(n,m)` be minimal such that in `(m, m + f(n,m))` there exist distinct
+integers `a₁, ..., a_n` such that `k ∣ a_k` for all `1 ≤ k ≤ n`.  The problem
+asks to prove `max_m f(n,m) ≤ n^{1 + o(1)}` and
+`max_m (f(n,m) - f(n,n)) → ∞`.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/711.lean:27]:
```suggestion

```
no need to duplicate the docstring here

File: FormalConjectures/ErdosProblems/711.lean [hunk 3]
```diff
@@ -0,0 +1,83 @@
...
+@[category research open, AMS 11]
+theorem erdos_711.parts.i : answer(sorry) ↔ Erdos711UpperBoundConjecture := by
+  sorry
+
+/-- Prove `max_m (f(n,m) - f(n,n)) → ∞`. -/
+@[category research open, AMS 11]
+theorem erdos_711.parts.ii :
+    answer(sorry) ↔ Erdos711UnboundedDifferenceConjecture := by
+  sorry
+
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/711.lean:79]: let's add a TODO for the additional comments/questions

**Review by mo271 — COMMENTED** [review]
Thanks!

some general remarks: 
The module docstring uses markdown backticks (e.g., `(m, m + f(n,m))`) rather than preserving the exact LaTeX math mode strings from the erdosproblems.com source (e.g., $(m,m+f(n,m))$). let's do latex markdwon and verbatim quotes
